US05707985
3-(4-Methyl-1-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane
The title compound was prepared by reacting 4-methyl-1-naphthalenesulfonyl chloride (0.69 g) with 3-azabicyclo[3.2.2]nonane (0.43 g) in the presence of DIEA using a procedure similar to that of Example 5. Yield 1.00 g of a grey solid, mp: 143.3°-147.2° C.

reactant | 4-methyl-1-naphthalenesulfonyl chloride | 0.69 g | CC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C11H9ClO2S
reactant | 3-azabicyclo[3.2.2]nonane | 0.43 g | C12CNCC(CC1)CC2 | C8H15N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 3-(4-Methyl-1-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane | CC1=CC=C(C2=CC=CC=C12)S(=O)(=O)N1CC2CCC(C1)CC2 | C19H23NO2S
